US08217064B2
To a suspension of NaH (0.327 g, 60% in paraffin oil, 8.1 mmol) in DMF (100 mL), slowly added a mixture of ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)acetate (3.0 g, 6.8 mmol) and cyclopropyl methylbromide (0.718 mL, 7.5 mmol) dissolved in DMF (20 mL) at 0° C. for 15 min under an atmosphere of nitrogen. The reaction mixture was allowed stir at 0° C. for 15 min, upon which the mixture was poured onto crushed ice and extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with water, brine, dried over Na2SO4 and evaporated. The residue was purified by Flash column chromatography to give compound ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)-3-cyclopropylpropanoate (2.35 g) as a thick syrup.

reactant | NaH | 8.1 mmol, 0.327 g | [H-].[Na+]
reactant | ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)acetate | 6.8 mmol, 3.0 g | BrC=1C=C(C=C(C1OCC(F)(F)F)Cl)CC(=O)OCC | C12H11BrClF3O3
reactant | cyclopropyl methylbromide | 7.5 mmol, 0.718 mL | C1(CC1)CBr | C4H7Br
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)-3-cyclopropylpropanoate | 2.35 g | BrC=1C=C(C=C(C1OCC(F)(F)F)Cl)C(C(=O)OCC)CC1CC1 | C16H17BrClF3O3
